US09227970B2
2-Methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid [2-(3-methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]-amide
Using morpholine and 5-[2-(3-Methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid, the title compound was prepared in the same manner as described for example 2. Off white solid (42 mg, 51%). MS: m/z=455 (M+H+).

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 5-[2-(3-Methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid | COC1CN(CC1)C1=NN2C(C=CC(=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1 | C17H19N7O4
product | 2-Methyl-4-(morpholine-4-carbonyl)-2H-pyrazole-3-carboxylic acid [2-(3-methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-yl]-amide | COC1CN(CC1)C1=NN2C(C=CC(=C2)NC(=O)C=2N(N=CC2C(=O)N2CCOCC2)C)=N1 | C21H26N8O4
